US07514561B2
3-Chloropropionylamino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylthiopyrazole
To a mixture of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylthiopyrazole (10.0 g, 19.0 mmol) in toluene was added 3-chloropropionyl chloride (3.92 g, 30.9 mmol), then zinc chloride (0.97 g, 7.1 mmol). The mixture was heated at reflux for 4 hours. After extractive workup and recrystallisation with heptane-ethyl acetate (1:1) the title product was obtained (9.05 g), 19F-NMR: −43.3; −63.7 ppm.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylthiopyrazole | 19.0 mmol, 10.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | 3-chloropropionyl chloride | 30.9 mmol, 3.92 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride | 7.1 mmol, 0.97 g | [Cl-].[Zn+2].[Cl-]
product | 3-Chloropropionylamino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylthiopyrazole | ClCCC(=O)NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C15H7Cl3F6N4OS
